US04582833
4-Dimethylamino-1,1-diphenyl-3-buten-2-one
A mixture of 21.0 g of 1,1-diphenylacetone and 40 ml of N,N-dimethylformamide dimethyl acetal in a 300 ml round bottom flask was heated in an oil bath at 120° C. for 8 hours with ethanol being distilled over. The reaction mixture was cooled and evaporated in vacuo to give an oil. The oil was boiled up in 50 ml of ether then cooled at -10° C. and gave a heavy precipitate. The precipitate was collected, washed with ether, then air dried and gave 21.5 g of crude product. A 5.0 g portion was recrystallized from 50 ml of 2-propanol, then cooled at room temperature. The material was collected and dried at 60° C. and gave 1.7 g of the desired product, mp 93°-94° C.

reactant | 1,1-diphenylacetone | 21.0 g | C1(=CC=CC=C1)C(C(=O)C)C1=CC=CC=C1 | C15H14O
reactant | N,N-dimethylformamide dimethyl acetal | 40 ml | COC(N(C)C)OC | C5H13NO2
reactant | ethanol | C(C)O | C2H6O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-Dimethylamino-1,1-diphenyl-3-buten-2-one | 1.7 g | CN(C=CC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C18H19NO
